US05994598
A process of claim 1 wherein beta-pinene oxide is reacted with water in the presence of an acidic exchange resin catalyst to produce p-menthene-7,8-diol; reacting said diol with acetic anhydride in the presence of pyridine as a catalyst to produce 7-acetoxy-p-menth-1-en-8-ol; dehydrating said 7-acetoxy-p-menth-1-en-8-ol to produce perillyl acetate and saponifying said perillyl acetate to perillyl alcohol.

reactant | beta-pinene oxide | CC1(C2CCC3(C1C2)CO3)C | C10H16O
reactant | water | O | H2O
product | p-menthene-7,8-diol | C1(CCC(=CC1)C(C)(C)O)CO | C10H18O2
